US06166006
In ethanol (10 ml) and ethyl acetate (60 ml) was dissolved 4-methylphenyl 4-nitrobenzyl sulfone (0.5 g; G. Bram et al., Synthesis, 1987, 56-59). To the mixture was added 10% palladium on carbon (0.05 g) and catalytic hydrogenation was carried out at room temperature over night. The catalyst was filtered off, and the solvent was evaporated to give 4-aminobenzyl 4-methylphenyl sulfone (0.4 g) as colorless crystals.

reactant | 4-methylphenyl 4-nitrobenzyl sulfone | 0.5 g | [N+](=O)([O-])C1=CC=C(CS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C14H13NO4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | 4-aminobenzyl 4-methylphenyl sulfone | 0.4 g | CC1=CC=C(C=C1)S(=O)(=O)CC1=CC=C(C=C1)N | C14H15NO2S
